US08080556B2
Hydrogen chloride (4 mL, 16 mmol; 4 M in dioxane) was added to a solution of N-allyl-2-[5-chloro-2,4-bis(methoxymethoxy)benzoyl]isoindoline-1-carboxamide (392 mg, 0.85 mmol) in DCM (5 mL). The reaction was stirred at room temperature for 12 hours. The reaction mixture was neutralized with saturated NaHCO3 (aq) and then extracted with EtOAc (2×50 mL). The combined organic layers were dried, filtered, and evaporated to give the desired final product as the parent compound (N-allyl-2-(5-chloro-2,4-dihydroxybenzoyl)isoindoline-1-carboxamide) as a white solid (221 mg, 69.7% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 3.57 (d, J=79.33 Hz, 2 H), 4.65-4.93 (m, 1 H), 4.97-5.19 (m, 1 H), 5.42-5.70 (m, 1 H), 5.68-5.95 (m, 1 H), 6.40-6.71 (m, 1 H), 6.92 (s, 1 H), 7.15-7.67 (m, 4 H), 8.28 (s, 1 H), 10.06 (s, 1 H), 10.40 (s, 1 H). Anal. Calcd for C19H17ClN2O4: C, 61.21; H, 4.60; N, 7.51. Found: C, 61.02; H, 4.63; N, 7.36.

reactant | Hydrogen chloride | 16 mmol, 4 M, 4 mL | Cl | ClH
reactant | N-allyl-2-[5-chloro-2,4-bis(methoxymethoxy)benzoyl]isoindoline-1-carboxamide | 0.85 mmol, 392 mg | C(C=C)NC(=O)C1N(CC2=CC=CC=C12)C(C1=C(C=C(C(=C1)Cl)OCOC)OCOC)=O | C23H25ClN2O6
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-allyl-2-(5-chloro-2,4-dihydroxybenzoyl)isoindoline-1-carboxamide | C(C=C)NC(=O)C1N(CC2=CC=CC=C12)C(C1=C(C=C(C(=C1)Cl)O)O)=O | C19H17ClN2O4
